US08686007B2
(S)-4-Benzyl-3-((S)-2-(4-fluorophenyl)propanoyl)oxazolidin-2-one.
To a room-temperature solution of (S)-4-benzyl-3-(2-(4-fluorophenyl)acetyl)oxazolidin-2-one (5.1 g, 16.3 mmol, 1.0 equiv) in dry THF (100 mL) was added iodomethane (1.0 mL, 16.2 mmol, 1.0 equiv) by syringe. The resulting mixture was cooled to −78° C., and NaHMDS (8.15 mL, 2M in THF, 16.3 mmol, 1.0 equiv) was added dropwise by syringe. After stirring for 15 minutes at −78° C., the reaction mixture was allowed to warm to room temperature. The reaction was quenched with sat'd. aq. NH4Cl, and diluted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (7-20% EtOAc/Hexanes) provided the title compound (2.6 g, 49%). m/z=328.4 [M+H]+.

reactant | (S)-4-benzyl-3-(2-(4-fluorophenyl)acetyl)oxazolidin-2-one | 16.3 mmol, 5.1 g, 1.0 equiv | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC1=CC=C(C=C1)F)=O | C18H16FNO3
reactant | iodomethane | 16.2 mmol, 1.0 mL, 1.0 equiv | IC | CH3I
reactant | NaHMDS | 16.3 mmol, 2M, 8.15 mL, 1.0 equiv | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (S)-4-Benzyl-3-((S)-2-(4-fluorophenyl)propanoyl)oxazolidin-2-one | 2.6 g, 49% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H](C)C1=CC=C(C=C1)F)=O | C19H18FNO3
